Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm hearing voices of the mafia and CIA"

 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ year old man with a self-reported history of 
schizophrenia who was brought to the ___ ED by EMS and police 
with paranoid delusions and auditory hallucinations. Psychiatry 
was consulted for a safety evaluation.
     Mr. ___ says that he is hearing voices of the mafia and 
CIA. Looking over the interviewer's shoulder, he says "there are 
people all over here watching you with guns. He made several 
threatening comments, such as, you better what out what you ask 
me in here, people are watching you. He says that he is always 
watched by satellites, and he endorsed delusions of thought 
broadcast. He denies depression, but he says that he has been 
thinking of shooting himself in the head to join his father. He 
says that he has access to guns. He says that he lives in an 
apartment in ___, and he could not explain how he got to 
___. He says that he has been taking medications but could 
not list them.
.
Collateral from BEST:
No record of the patient.
 
Past Medical History:
None.
 
Social History:
Social History:
Born and raised in: Says he was born in ___ until he was 
kidnapped
Family/Support: Never knew his father. Mother lives in ___. 
No siblings. Has a wife and ___ year old daughter. Wife has 
custody of daughter. 
___: Lives in an apartment in ___
Education: Finished high school
Employment/Income: Receives SSDI. Has worked as a ___ 
in the past. 
Spiritual: Muslim
Trauma history: Pt reports h/o sexual abuse in late teens and 
more recently this year. 

Substance Abuse History:
Tobacco: ___ cigarettes/day currently.
Alcohol: Denies issues with abuse in the past. Last drink was 
day
of admission when pt had 1 beer.
Illicit drug use: Marijuana last smoked ___ years ago. Cocaine 
last
used ___ year ago. Pt guarded on this topic.

FORENSIC HISTORY:
Arrests: denies
Convictions and jail terms: denies
Current status (pending charges, probation, parole): N/A

 
Family History:
Unknown if there is a h/o psychiatric illness in pt's family.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
EXAM: 
*VS: 98.6 76 132/78 18 100%

Neurological:  
*station and gait: normal station and gait
*tone and strength: normal tone, strength ___ throughout
cranial nerves: 
abnormal movements: 
frontal release:

Cognition: 
Wakefulness/alertness: awake and alert
*Attention (digit span, MOYB): refused to attempt
*Orientation: ___, ___"
*Memory: ___ registration   
*Fund of knowledge: ___ wrote: doesn't know. ___ 
___
wrote: Keep your head up  
Executive function (go-no go, Luria, trails, FAS):
Calculations:  
Abstraction: 
Visuospatial: 
*Speech: normal rate, rhythm, volume, and prosody
*Language: fluent without paraphasic errors
 
Mental Status:
*Appearance: a young man with buzzed hair, appears calm, appears
stated age, wearing hospital gown
Behavior: cooperative and appropriate, good eye-contact
*Mood and Affect: "OK"/euthymic, reactive
*Thought process / *associations: linear, goal-directed, no LOA
*Thought Content: auditory and visual hallucinations of the CIA
and men with guns in the ED, delusions that satellites are
watching him, thought broadcasting, SI with plan and intent, no
HI
*Judgment and Insight: poor
 
Pertinent Results:
LABS
___ BLOOD WBC-4.3 RBC-5.13 Hgb-14.9 Hct-44.8 MCV-87 
MCH-29.0 MCHC-33.3 RDW-12.7 RDWSD-40.8 Plt ___
___ BLOOD Neuts-36.8 ___ Monos-10.8 Eos-2.8 
Baso-0.5 Im ___ AbsNeut-1.57*# AbsLymp-2.09 AbsMono-0.46 
AbsEos-0.12 AbsBaso-0.02
___  BLOOD Plt ___
___ BLOOD Glucose-107* UreaN-15 Creat-1.1 Na-139 K-4.2 
Cl-101 HCO3-28 AnGap-14
___ BLOOD ALT-28 AST-17 AlkPhos-61 TotBili-0.4
___ BLOOD Calcium-9.3 Phos-5.2* Mg-2.1
___ BLOOD Ammonia-49

MICRO
___ RAPID PLASMA REAGIN TEST NEGATIVE

IMAGING
None.
 
Brief Hospital Course:
Brief Hospital Course:
 SAFETY:  The pt. was initially placed on q5 minute checks and 
was restricted from sharps on admission. He consistently 
remained in good behavioral control, and was advanced to q15 
minute checks. He was unit-restricted.  There were no acute 
safety issues, and he required no physical or chemical 
restraints during this hospitalization.
.
 LEGAL: ___
 PSYCHIATRIC:
   #).Schizoaffective Disorder:
On admission interview, patient demonstrated clear paranoia and 
delusions.  He talked at length about concerns that he was being 
monitored by the CIA, and expressed concerns that there could be 
ninjas hiding among the hospital staff.  Patient endorsed clear 
AVH on discharge, reporting that he saw snipers outside of the 
building.  Patient had also made suicidal statements, stating 
that he had been thinking about eventually shooting himself at 
some point in the future in order to protect the President of 
the ___.  Patient also demonstrated some mood lability and 
expansiveness, and was at times hypersexual, verbally flirting 
with females on the unit, but notably was redirectable and 
maintained behavioral control overall.  In turn, patient's 
clinical presentation was most consistent with a decompensation 
of his schizoaffective disorder, likely in the setting of 
medication noncompliance.
.
From a psychopharmacological standpoint, patient was restarted 
on risperidone, which was gradually uptitrated to 3mg po BID. 
Patient was also written for Cogentin 1mg po BID to prevent EPS, 
as well as hydroxyzine 50mg po BID prn anxiety, insomnia.  To 
target mood lability, patient was started on Depakote, which was 
uptitrated to 750mg po BID.  Patient continued to demonstrate 
some paranoia and delusions on risperidone alone, so risperidone 
was augmented with ziprasidone, which was slowly uptitrated to 
ziprasidone 80mg po BID.  Patient tolerated this medication 
regimen well, and reported no adverse effects.  Platelets were 
somewhat low on admission at 144, and patient reported that this 
has been a chronic problem in the past.  Platelets were 
rechecked several times while on Depakote, and remained stable, 
last platelet count was 132 on ___.  Patient's outpatient 
provider should continue to monitor CBC as appropriate.  On this 
regimen, patient demonstrated much less paranoia.  He no longer 
reported any AVH, and did not appear to be internally 
preoccupied.  He reported that his overall mood was "better," 
more balanced, and demonstrated less mood lability.  Patient 
denied SI and HI consistently for several days prior to 
discharge.  Again, on day of discharge, patient denied SI, 
denied HI, denied AVH, and remained future oriented, with plans 
to clean up his apartment in ___ and go shopping for 
groceries with his PACT team.  Patient was  actively engaged in 
the therapeutic process, meeting with treatment team daily for 
individual therapy, and also participating in some group and 
milieu therapy as tolerated. Upon discharge, patient was 
provided with prescriptions for benztropine 1mg po BID, Depakote 
750mg po BID, Vistaril 50mg po BID prn anxiety/insomnia, 
risperidone 3mg po BID, and ziprasidone 80mg po BID.  Patient's 
PACT team was contacted during this hospitalization and again 
prior to discharge to coordinate aftercare.  On discharge, 
patient was sent via ambulance to his PACT team, and patient's 
PACT team case manager planned to meet with patient on each day 
of weekend following discharge.  Patient was also scheduled for 
a follow-up appointment with his PACT team psychiatrist on 
___.  Patient was in good understanding and agreement with 
this aftercare plan.
.
 GENERAL MEDICAL CONDITIONS:
  #).Chronic tooth pain: Patient did complain of some chronic 
tooth pain, for which he had been taking ibuprofen.  Patient 
remained afebrile, hemodynamically stable, and demonstrated no 
signs of infection during this hospitalization.  Patient was 
continued on ibuprofen 600mg po q6h prn pain.  Patient should 
continue to follow-up with his PCP and dentist upon discharge 
for ongoing management.
.
 PSYCHOSOCIAL:
 #) GROUPS/MILIEU: Pt was encouraged to participate in unit’s 
groups/milieu/therapy opportunities as appropriate. Patient was 
at times noted to be somewhat intrusive in milieu, but 
ultimately was responsive to staff redirection. He was more 
visible in the unit as the hospitalization progressed, and had 
conversations with peers. He attended groups as tolerated. He 
never engaged in any unsafe behaviors. He ate all meals in the 
milieu, slept well, and cooperated with group rules.
.
 #) COLLATERAL CONTACTS:  Patient's PACT team and PACT team 
psychiatrist, Dr. ___ contacted by the primary 
treatment team for collateral information, and were provided 
with clinical updates on this hospitalization.  PACT team was 
contacted by our social worker prior to discharge in order to 
coordinate aftercare plans.  As detailed above, at time of 
discharge, patient was sent via ambulance to his PACT team, at 
which time PACT team case manager will resume coordinating 
outpatient care.
.
 #) INTERVENTIONS:
 - Medications: risperidone, ziprasidone, Depakote, Vistaril
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: coordinated in conjunction with 
patient's PACT team as detailed above 
 - Behavioral Interventions (e.g. encouraged DBT skills, ect):  
Patient was encouraged to continue to participate in groups as 
tolerated, with particular emphasis on identifying positive 
coping mechanisms
.
 INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting these medications, and risks  and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to   
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and I 
answered the patient's questions. The patient appeared able to 
understand and consented to begin the medication.
.  
 RISK ASSESSMENT:
 #) Chronic/Static Risk Factors:
-history of chronic mental illness with many prior 
hospitalizations
-history of numerous failed medication trials, including 
failures on IM depot medications 
  
 #) Modifiable Risk Factors:
-chronic history of medication noncompliance and poor follow-up 
with established aftercare plans
-reported history of self injury and suicide attempts

 #) Protective Factors:
-patient has established outpatient treatment through his PACT 
team
-patient is currently medication compliant
.
 PROGNOSIS:  Overall, patient has a very guarded longterm 
prognosis, given his history of numerous prior hospitalizations, 
numerous failed medication trials, and history of not following 
through with established after care plans.  However, protective 
factors at this point include the fact that the patient has very 
comprehensive, involved outpatient treatment though his PACT 
team, he is currently medication compliant, and upon discharge 
from this hospitalization, he is being sent by ambulance 
directly into the care of his PACT team, who will continue to 
monitor him.  Patient will continue to require longterm 
intensive outpatient follow-up as facilitated via his PACT team, 
in order to help him manage his psychopharmacology regimen, to 
provide him with outpatient therapy, and to help provide him 
with additional outpatient supports in the community.
.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 600 mg PO Q6H:PRN tooth pain 

 
Discharge Medications:
1. Ibuprofen 600 mg PO Q6H:PRN tooth pain 
2. Benztropine Mesylate 1 mg PO BID 
RX *benztropine 1 mg 1 tablet(s) by mouth twice a day Disp #*28 
Tablet Refills:*0
3. Divalproex (DELayed Release) 750 mg PO BID 
RX *divalproex ___ mg 3 tablet(s) by mouth twice a day Disp #*84 
Tablet Refills:*0
4. HydrOXYzine 50 mg PO BID:PRN anxiety/insomnia 
RX *hydroxyzine HCl 50 mg 1 by mouth twice a day Disp #*28 
Tablet Refills:*0
5. RISperidone 3 mg PO BID 
RX *risperidone 3 mg 1 tablet(s) by mouth twice a day Disp #*28 
Tablet Refills:*0
6. ZIPRASidone Hydrochloride 80 mg PO BID 
RX *ziprasidone HCl 80 mg 1 capsule(s) by mouth twice a day Disp 
#*28 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizoaffective Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

*Appearance: Young, well appearing ___ male who
appears states age. Wearing a sweatshirt and black jeans. Fair
grooming. Sitting up in chair, in no acute distress
*Behavior: Calm and cooperative, answers questions 
appropriately.
Good eye contact. No PMA/PMR
*Mood and Affect: 'I'm good' / Affect seems overall euthymic,
less irritable and more friendly, normal range, not overly
expansive today 
*Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
Less tangential today
*Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): Denies AVH, denies SI, denies HI.
*Judgment and Insight: Limited but improved / limited but 
improved
Cognition:
*Language: Native ___ speaker, fluent without paraphrasic 
errors
*Speech: Normal rate, rhythm, volume, tone.

 
Discharge Instructions:
Discharge Instructions
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___